US07378525B2
2-Methyl-N-(5,6,7,8-tetrahydro-naphthalen-1-yl)-benzamide (58)
To a 25° C. solution of aniline (1 eq) in anhydrous THF (2 mL per mmol aniline) was added polymer bound pyridine (1.5 eq) followed by 2-methyl-benzoyl chloride (1 eq). The mixture was stirred at 25° C. for 12-24 h. The reaction mixture was filtered and the filtrate concentrated in vacuo. Hexane was added to the residue and the resulting precipitate was collected by filtration, resulting in a white solid (yield 65%). LC/MS (M+H)+ m/z 266. The crude material was used without further purification.

reactant | aniline | 1 eq | NC1=CC=CC=C1 | C6H7N
reactant | pyridine | 1.5 eq | N1=CC=CC=C1 | C5H5N
reactant | 2-methyl-benzoyl chloride | 1 eq | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
solvent | THF | C1CCOC1 | C4H8O
product | 2-Methyl-N-(5,6,7,8-tetrahydro-naphthalen-1-yl)-benzamide | yield 65% | CC1=C(C(=O)NC2=CC=CC=3CCCCC23)C=CC=C1 | C18H19NO
